### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal): add Algebra.HasGoingUp

### PR DESCRIPTION
**Pull request by rshlyakh**
This closely mirrors `Mathlib/RingTheory/Ideal/GoingDown.lean` by defining an analogous predicate `Algebra.HasGoingUp` and proving basic properties. It includes:

- `Algebra.HasGoingUp.iff_specializingMap_primeSpectrumComap`: going up is equivalent
  to specializations lifting along `Spec S → Spec R`.
- `Algebra.HasGoingUp.of_isIntegral`: integral algebras satisfy going up.
- `Ideal.exists_ltSeries_of_hasGoingUp`: a generalization of `exists_ideal_over_prime_of_isIntegral_of_isPrime` from `Mathlib/RingTheory/Ideal/GoingUp.lean` to chains of arbitrary length. This was previously an explicitly marked `TODO`.

---

I am unsure if this contribution should be in a separate file. Initially, I wanted to add it to the existing `Mathlib/RingTheory/Ideal/GoingUp.lean` file, but my theorem `Algebra.HasGoingUp.iff_specializingMap_primeSpectrumComap` requires the import `Mathlib.RingTheory.Spectrum.Prime.Topology`, which itself imports `Mathlib.RingTheory.Ideal.GoingUp.lean`. Advice on this would be appreciated.

LLM use: Codex was used to identify useful existing theorems in Mathlib and to check for typos/formatting issues. The theorem statements, proofs, and docstrings are human-written.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
I've moved part of the PR description after the `---` (comments should go there, they will not be included in the commit description).

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+public import Mathlib.Order.RelSeries
+public import Mathlib.RingTheory.Ideal.GoingUp
+public import Mathlib.RingTheory.Spectrum.Prime.Topology
+
+/-!
+# Going up
+
+In this file we define a predicate `Algebra.HasGoingUp`: An `R`-algebra `S` satisfies
+`Algebra.HasGoingUp R S` if for every pair of prime ideals `p ≤ q` of `R` with
+`P` a prime of `S` lying above `p`, there exists a prime `Q ≥ P` of `S` lying above `q`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
`P` a prime of `S` lying above `p`, there exists a prime `P ≤ Q` of `S` lying above `q`.
```

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+  to specializations lifting along `Spec S → Spec R`.
+- `Algebra.HasGoingUp.of_isIntegral`: integral algebras satisfy going up.
+-/
+
+@[expose] public section
+
+/--
+An `R`-algebra `S` satisfies `Algebra.HasGoingUp R S` if for every pair of
+prime ideals `p ≤ q` of `R` with `P` a prime of `S` lying above `p`, there exists a
+prime `Q ≥ P` of `S` lying above `q`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
prime `P ≤ Q` of `S` lying above `q`.
```

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 3]
```diff
@@ -0,0 +1,140 @@
...
+
+The condition only asks for `<` which is easier to prove, use
+`Ideal.exists_ideal_ge_liesOver_of_le` for applying it. -/
+@[stacks 00HV "(1)"]
+class Algebra.HasGoingUp
+    (R S : Type*) [CommRing R] [CommRing S] [Algebra R S] : Prop where
+  exists_ideal_ge_liesOver_of_lt {q : Ideal R} [q.IsPrime] (P : Ideal S) [P.IsPrime] :
+    P.under R < q → ∃ Q ≥ P, Q.IsPrime ∧ Q.LiesOver q
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
    P.under R < q → ∃ P ≤ Q, Q.IsPrime ∧ Q.LiesOver q
```
In general in mathlib we always use `≤` and `<`. Can you please fix this everywhere?

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 4]
```diff
@@ -0,0 +1,140 @@
...
+lemma Ideal.exists_ideal_ge_liesOver_of_le [Algebra.HasGoingUp R S]
+    {p q : Ideal R} [p.IsPrime] [q.IsPrime] (P : Ideal S) [P.IsPrime] [P.LiesOver p]
+    (hle : p ≤ q) :
+    ∃ Q ≥ P, Q.IsPrime ∧ Q.LiesOver q := by
+  by_cases h : p = q
+  · subst h
+    use P
+  · have := P.over_def p
+    subst this
+    exact Algebra.HasGoingUp.exists_ideal_ge_liesOver_of_lt P (lt_of_le_of_ne hle h)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
  rcases eq_or_ne p q with rfl | h
  · use P
  · rw [P.over_def p] at hle h
    exact Algebra.HasGoingUp.exists_ideal_ge_liesOver_of_lt P (lt_of_le_of_ne hle h)
```
If you want.

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 5]
```diff
@@ -0,0 +1,140 @@
...
+`Ideal.exists_ideal_ge_liesOver_of_le` for applying it. -/
+@[stacks 00HV "(1)"]
+class Algebra.HasGoingUp
+    (R S : Type*) [CommRing R] [CommRing S] [Algebra R S] : Prop where
+  exists_ideal_ge_liesOver_of_lt {q : Ideal R} [q.IsPrime] (P : Ideal S) [P.IsPrime] :
+    P.under R < q → ∃ Q ≥ P, Q.IsPrime ∧ Q.LiesOver q
+
+variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
+
+lemma Ideal.exists_ideal_ge_liesOver_of_le [Algebra.HasGoingUp R S]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]: You can use `namespace Ideal` if you want.

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 6]
```diff
@@ -0,0 +1,140 @@
...
+lemma Ideal.exists_ideal_gt_liesOver_of_lt [Algebra.HasGoingUp R S]
+    {p q : Ideal R} [p.IsPrime] [q.IsPrime] (P : Ideal S) [P.IsPrime] [P.LiesOver p]
+    (hpq : p < q) :
+    ∃ Q > P, Q.IsPrime ∧ Q.LiesOver q := by
+  obtain ⟨Q, hPQ, _, _⟩ := P.exists_ideal_ge_liesOver_of_le (p := p) (q := q) hpq.le
+  refine ⟨Q, ?_, inferInstance, inferInstance⟩
+  by_contra hc
+  have : P = Q := eq_of_le_of_not_lt hPQ hc
+  subst this
+  simp [P.over_def p, P.over_def q] at hpq
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
  obtain ⟨Q, hPQ, hQ, hQq⟩ := P.exists_ideal_ge_liesOver_of_le (p := p) (q := q) hpq.le
  refine ⟨Q, lt_of_le_of_ne hPQ fun h ↦ ?_, hQ, hQq⟩
  subst Q
  simp [P.over_def p, P.over_def q] at hpq
```

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 7]
```diff
@@ -0,0 +1,140 @@
...
+      L.head = (⟨P, inferInstance⟩ : PrimeSpectrum S) ∧
+      List.map (PrimeSpectrum.comap (algebraMap R S)) (L.toList) = l.toList := by
+  induction l using RelSeries.inductionOn generalizing P with
+  | singleton q =>
+    use RelSeries.singleton _ ⟨P, inferInstance⟩
+    simp only [RelSeries.singleton_length, RelSeries.head_singleton,
+      RelSeries.toList_singleton, List.map_cons, List.map_nil,
+      List.cons.injEq, and_true, true_and]
+    ext : 1
+    simpa using lo.over.symm
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
    refine ⟨RelSeries.singleton _ ⟨P, inferInstance⟩, rfl, rfl, ?_⟩
    simpa [PrimeSpectrum.ext_iff] using lo.over.symm
```

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean [hunk 8]
```diff
@@ -0,0 +1,140 @@
...
+  | cons l q lt ih =>
+    simp only [RelSeries.head_cons] at lo
+    obtain ⟨Q, PQlt, hQ, Qlo⟩ :=
+      Ideal.exists_ideal_gt_liesOver_of_lt P lt
+    obtain ⟨L, len, head, spec⟩ := ih Q
+    use L.cons ⟨P, inferInstance⟩ (by simp_all only [Set.mem_setOf_eq, gt_iff_lt]; exact PQlt)
+    simp only [RelSeries.cons_length, add_left_inj,
+      RelSeries.head_cons, true_and]
+    exact ⟨len,
+      by simpa [spec] using PrimeSpectrum.ext_iff.mpr lo.over.symm⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/HasGoingUp.lean]:
```suggestion
    refine ⟨L.cons ⟨P, inferInstance⟩ (by
      simp_all only [Set.mem_setOf_eq, gt_iff_lt]
      exact PQlt), by simpa using len, rfl, ?_⟩
    simpa [spec, PrimeSpectrum.ext_iff] using lo.over.symm
```

File: Mathlib/RingTheory/Ideal/GoingUp.lean [hunk 9]
```diff
@@ -303,9 +303,7 @@ theorem exists_ideal_over_prime_of_isIntegral_of_isDomain [Algebra.IsIntegral R
 
 end
 
-/-- More general going-up theorem than `exists_ideal_over_prime_of_isIntegral_of_isDomain`.
-TODO: Version of going-up theorem with arbitrary length chains (by induction on this)?
-  Not sure how best to write an ascending chain in Lean -/
+/-- More general going-up theorem than `exists_ideal_over_prime_of_isIntegral_of_isDomain`. -/
```
Comment (robertylewis) [inline Mathlib/RingTheory/Ideal/GoingUp.lean]: Is it worth referencing the new generalization of this result in the docstring?

File: Mathlib/RingTheory/Ideal/HasGoingUp.lean (hunk 3 above)
Comment (rshlyakh) [reply Mathlib/RingTheory/Ideal/HasGoingUp.lean]: This gives me a syntax error when I try it (unknown identifier `Q`). Would writing:

`\exists Q, P \le Q \and Q.IsPrime \and Q.LiesOver q`

be correct?

File: Mathlib/RingTheory/Ideal/GoingUp.lean (hunk 9 above)
Comment (rshlyakh) [reply Mathlib/RingTheory/Ideal/GoingUp.lean]: Thanks, I added a note to the docstring.

File: Mathlib/RingTheory/Ideal/GoingUp.lean [hunk 10]
```diff
@@ -304,8 +304,7 @@ theorem exists_ideal_over_prime_of_isIntegral_of_isDomain [Algebra.IsIntegral R
 end
 
 /-- More general going-up theorem than `exists_ideal_over_prime_of_isIntegral_of_isDomain`.
-TODO: Version of going-up theorem with arbitrary length chains (by induction on this)?
-  Not sure how best to write an ascending chain in Lean -/
+Generalized to arbitrary length chains in exists_ltSeries_of_hasGoingUp. -/
```
Comment (robertylewis) [inline Mathlib/RingTheory/Ideal/GoingUp.lean]:
```suggestion
Generalized to arbitrary length chains in `Ideal.exists_ltSeries_of_hasGoingUp`. -/
```

**Review by riccardobrasca — COMMENTED** [review]
I don't see a reasonable generalization so I guess this is ready to go, thanks!

bors merge
